US08008298B2
2-(3,4,5-Trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid (tetrahydro-pyran-3-yl)-amide was prepared starting from 2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid and tetrahydro-pyran-3-ylamine hydrochloride following the general procedures described in these Examples but with triethylamine and DMAP added. MP 191-192° C., M+H 413.

reactant | 2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid | COC=1C=C(C=C(C1OC)OC)C=1N=C2C(=NC1)NC=C2C(=O)O | C16H15N3O5
reactant | tetrahydro-pyran-3-ylamine hydrochloride | Cl.O1CC(CCC1)N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(3,4,5-Trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid (tetrahydro-pyran-3-yl)-amide | O1CC(CCC1)NC(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C21H24N4O5
